US08022062B2
Use a method similar to the Preparation 177, using 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine and 4-(chloromethyl)phenyl acetate to give 6-(4-acetoxybenzylthio)-3-tert-butoxycarbonyl-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine as a white solid.

reactant | 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SC(N(C)C)=O | C18H25ClN2O3S
reactant | 4-(chloromethyl)phenyl acetate | C(C)(=O)OC1=CC=C(C=C1)CCl | C9H9ClO2
product | 6-(4-acetoxybenzylthio)-3-tert-butoxycarbonyl-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine | C(C)(=O)OC1=CC=C(CSC2=C(C=CC=3CCN(CCC32)C(=O)OC(C)(C)C)Cl)C=C1 | C24H28ClNO4S
